US08071597B2
Intermediate 26: methyl 5-(aminosulfonyl)-1-methyl-1H-pyrrole-2-carboxylate (Formula V)
5-(Aminosulfonyl)-1-methyl-1H-pyrrole-2-carboxylic acid (1310 mg; 6.42 mmol; 1 eq.), commercially available (ASDI), is dissolved in MeOH (24 ml), then toluene (8 ml) is added followed by the dropwise addition of (trimethylsilyl)diazomethane (9.62 ml; 2M; 19.25 mmol; 3 eq). The solution is stirred at r.t. for 2 hr and another equivalent of (trimethylsilyl)diazomethane (3.21 ml; 2 M; 6.42 mmol; 1 eq) is added to reaction mixture. After 1 hr stirring, the solvent is concentrated to dryness and the resulting off white solid is recrystallized in MeOH to afford 851.1 mg (61%) of the title compound. 1H NMR (DMSO-d6) δ 7.58 (d, J=1.5 Hz, 1H), 7.13 (s, 2H), 7.06 (d, J=1.9 Hz, 1H), 3.88 (s, 3H), 3.77 (s, 3H). HPLC (max plot) 100%; Rt 1.19 min. LC/MS: (ES−) 217.1.

reactant | 5-(Aminosulfonyl)-1-methyl-1H-pyrrole-2-carboxylic acid | 6.42 mmol, 1310 mg, 1 eq. | NS(=O)(=O)C1=CC=C(N1C)C(=O)O | C6H8N2O4S
reactant | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
reactant | (trimethylsilyl)diazomethane | 19.25 mmol, 2M, 9.62 ml, 3 eq | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | (trimethylsilyl)diazomethane | 6.42 mmol, 2 M, 3.21 ml, 1 eq | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | MeOH | 24 ml | CO | CH4O
product | methyl 5-(aminosulfonyl)-1-methyl-1H-pyrrole-2-carboxylate | 851.1 mg, 61% | NS(=O)(=O)C1=CC=C(N1C)C(=O)OC | C7H10N2O4S
